US04728654
2-Methoxy-8-methyl-6-[4-methoxyphenyl]quinoline
n-Butyllithium (33.3 cm3 of a 1.5M solution in n-hexane) was added dropwise at -70° to a stirred solution of 4-bromoanisole (6.26 cm3) in THF (70 cm3) under nitrogen. After ten minutes, a solution of anhydrous zinc chloride (6.814 g) in THF (50 cm3) was added and the mixture was allowed to warm to room temperature over 0.5 hour. A mixture of 6-bromo-2-methoxy-8-methylquinoline (12.8 g) and tetrakis(triphenylphosphine)palladium (0) (0.5 g) was added and the mixture heated under reflux for 2 hours. Volatile material was removed in vacuo and the residue was partitioned between chloroform (150 cm3) and a solution of ethylenediaminetetraacetic acid (40 g) in water (250 cm3). The organic layer was dried (MgSO4) and evaporated to afford an oil which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with hexane:ethyl acetate, 19:1. Combination and evaporation of the appropriate fractions afforded the title compound (5.49 g). A small portion of this was recrystallised from methanol and had m.p. of 104°-106° and the following analysis:

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 4-bromoanisole | 6.26 cm3 | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 6-bromo-2-methoxy-8-methylquinoline | 12.8 g | BrC=1C=C2C=CC(=NC2=C(C1)C)OC | C11H10BrNO
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 70 cm3 | C1CCOC1 | C4H8O
solvent | THF | 50 cm3 | C1CCOC1 | C4H8O
catalyst | zinc chloride | 6.814 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methoxy-8-methyl-6-[4-methoxyphenyl]quinoline | 5.49 g | COC1=NC2=C(C=C(C=C2C=C1)C1=CC=C(C=C1)OC)C | C18H17NO2
